US07112594B2
N-[4-(N,N-bis(2-hydroxyethyl)amino)-3-cyanophenyl]benzo[b]thiophene-2-carboxamide ¼ hydrate
By the reaction and treatment in the same manner as in Example 6 using benzo[b]thiophene-2-carboxylic acid (1.0 g) and 5-amino-2-[N,N-bis(2-hydroxyethyl)amino]benzonitrile (0.9 g), the title compound (0.3 g) was obtained. melting point: 163-168° C.

reactant | benzo[b]thiophene-2-carboxylic acid | 1.0 g | S1C2=C(C=C1C(=O)O)C=CC=C2 | C9H6O2S
reactant | 5-amino-2-[N,N-bis(2-hydroxyethyl)amino]benzonitrile | 0.9 g | NC=1C=CC(=C(C#N)C1)N(CCO)CCO | C11H15N3O2
product | N-[4-(N,N-bis(2-hydroxyethyl)amino)-3-cyanophenyl]benzo[b]thiophene-2-carboxamide | 0.3 g | OCCN(CCO)C1=C(C=C(C=C1)NC(=O)C1=CC2=C(S1)C=CC=C2)C#N | C20H19N3O3S
